US07851492B2
3-[4-Amino-3-(1H-tetrazol-5-yl)-phenyl]-N,N-dimethyl-propionamide (90 mg) dissolved in acetonitrile at 65° C. under Ar was treated with 4-chloro-3-trifluoromethylphenylisocyanate (85.6 mg) and the mixture was stirred overnight. Cooling to room temperature and filtration afforded 3-[4-[3-(4-chloro-3-trifluoromethyl-phenyl)-ureido]-3-(1H-tetrazol-5-yl)-phenyl]-N,N-dimethyl-propionamide. Mp.=184.5-189.3° C.

reactant | 3-[4-Amino-3-(1H-tetrazol-5-yl)-phenyl]-N,N-dimethyl-propionamide | 90 mg | NC1=C(C=C(C=C1)CCC(=O)N(C)C)C1=NN=NN1 | C12H16N6O
reactant | 4-chloro-3-trifluoromethylphenylisocyanate | 85.6 mg | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-[4-[3-(4-chloro-3-trifluoromethyl-phenyl)-ureido]-3-(1H-tetrazol-5-yl)-phenyl]-N,N-dimethyl-propionamide | ClC1=C(C=C(C=C1)NC(NC1=C(C=C(C=C1)CCC(=O)N(C)C)C1=NN=NN1)=O)C(F)(F)F | C20H19ClF3N7O2
